US06784192B2
4-[[2-(Cyclohexylethyl)phenoxy]methyl]piperidine
1.138 g of 1-(tert-butoxycarbonyl)-4-[[(2-cyclohexylethyl)phenoxy]methyl]piperidine was dissolved in 3 ml of dichloromethane, 3 ml of trifluoroacetic acid was added thereto, and the mixture was left at room temperature for one hour 30 minutes. An aqueous sodium carbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and to the residue was added n-hexane, to give 899 mg of the title compound as a white powder.

reactant | 1-(tert-butoxycarbonyl)-4-[[(2-cyclohexylethyl)phenoxy]methyl]piperidine | 1.138 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC=C1)CCC1CCCCC1 | C25H39NO3
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-[[2-(Cyclohexylethyl)phenoxy]methyl]piperidine | 899 mg | C1(CCCCC1)CCC1=C(OCC2CCNCC2)C=CC=C1 | C20H31NO
